datasets/RMG-dataset.csv
rxn,Ea
[S:0]=[C:1]([S:2][H:4])[H:3].[S:5]([C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])[H:14])[H:13]>>[H:4][C:6]([S:5][H:13])([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])[H:14].[S:0]=[C:1]([S:2])[H:3],10.0416
[O:0]=[C:1]1[C:2]([H:6])=[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:9].[O:10]>>[H:6][O:10].[O:0]=[C:1]1[C:2]=[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:9],6.15048
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][H:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:19][O:27][H:28],-4.765576
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([S:4][C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6].[S:4]([C:5]([H:11])([H:12])[H:13])[H:14],8.368
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19],45.9403
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[c:24]1[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]1[H:34]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[c:24]1[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]1[H:34])[H:14])([H:12])[H:13],-8.7864
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39][H:40]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:21][O:38][O:39][H:40],58.19944
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19])[H:5],49.6641
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26])([H:10])([H:11])[H:12],49.7478
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([S:9][H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:10])([H:3])[H:4].[C:8]([S:9][H:13])([H:11])[H:12],5.0208
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([H:17])([H:18])[H:19])[H:16],39.5806
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:8])([H:6])[H:7],79.5378
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]=[S:8])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:9])([H:10])[H:11])=[S:8],72.8016
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][H:22]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:15][O:21][H:22],-4.230024
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:6]([H:7])([H:8])[H:9],14.1838
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:16]([H:17])([H:18])[H:19])[H:8],8.66088
